* A test circuit to demonstrate SPICE syntax
* contains a pair of paralleled voltages, should trigger error
V2 N003 N004 4
R1 0 N004 4
R2 0 N002 8
R3 N001 N002 1
R4 N002 N003 2
V1 N001 0 1
V3 N001 0 -1
.tran 0 1s 0 0.1s
.backanno
.end