*
R1 N004 N001 1
R2 N005 N002 2
R3 N005 N003 4
R4 0 N003 8
R5 N001 N002 4
V1 N003 0 4
C1 N003 N002 1m
C2 0 N005 1µ
L1 N005 N004 100m
.tran 0 1 0 1u
.backanno
.end
