C1 N001 N004 1
V1 N001 N005 1
R1 0 N004 8
R2 N002 N001 1
R3 N003 N002 2
R4 0 N003 4
R5 N003 N004 4
R6 0 N005 2
R7 N002 N001 4
.tran 0 1m 0 1u
.backanno
.end
