R1 0 N001 1
R2 0 N002 2
R3 0 N003 4
V1 N003 N002 2
V2 N001 N002 1
.tran 0 1 0 0.01
.backanno
.end

* V_N001 = 142.9mV
* V_N002 = -857.1mV
* V_N003 = 1142.9mV
