C1 N003 N006 1
R1 P001 N006 8
R2 N002 N001 1
R3 N005 N002 2
R4 N008 N005 4
R5 N005 N006 4
R7 N002 N003 4
V3 N007 P002 1
R6 0 P002 4
V5 P001 N009 1
R8 0 N009 8
V1 N001 N004 1
V2 N004 N007 1
I1 N008 0 1
.tran 0 1m 0 1u
.backanno
.end
